US06294558B1
(E)-1-(4-Bromophenyl)-3-(dimethylamino)-2-nitro-2-propen-1-one. (step 1)
A mixture of 1-(4-bromophenyl)-2-nitroethanone (5.38 g, 0.022 mol, Seter J. et al., Isr. J. Chem., 4, 7 (1966)) and N,N-dimethylformamide dimethylacetal (2.9 g, 0.024 mol) and catalytic amount of p-TsOH in THF (100 mL) was refluxed for 10 h. The mixture was cooled to room temperature and concentrated in vacuo. The reaction mixture was purified by flash chromatography eluting with ethyl acetate/hexane (1/1) to give title compound (2.8 g, 43%).

reactant | 1-(4-bromophenyl)-2-nitroethanone | 0.022 mol, 5.38 g | BrC1=CC=C(C=C1)C(C[N+](=O)[O-])=O | C8H6BrNO3
reactant | N,N-dimethylformamide dimethylacetal | 0.024 mol, 2.9 g | COC(N(C)C)OC | C5H13NO2
reactant | p-TsOH | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | (E)-1-(4-Bromophenyl)-3-(dimethylamino)-2-nitro-2-propen-1-one | 2.8 g, 43% | BrC1=CC=C(C=C1)C(/C(=C\N(C)C)/[N+](=O)[O-])=O | C11H11BrN2O3
